US05128355
To a solution of 5.56 mL of 1.6M n-butyllithium/hexane in 80 mL of tetrahydrofuran at 0° was added dropwise 1.15 mL of t-butanol. To the solution was added 3.28 g of 1-[(2'-tert-butoxycarbonylbiphenyl-4-yl)methyl]-2-butyl-5-hydroxymethyl-4-iodoimidazole followed by 1.15 mL of 2-methoxyethoxymethyl chloride. The resulting solution was stirred at 25° for 16 hours. The mixture was diluted with diethyl ether, washed with water and brine, dried over anhydrous sodium sulfate, filtered and concentrated. Column chromatography afforded 2.61 g of 1-[2'-tert-butoxycarbonylbiphenyl-4-yl)methyl]-2-butyl-4-iodo-5-(2-methoxyethoxymethoxymethyl)imidazole. NMR (200 MHz, CDCl3): δ 7.78 (d, 1H); 7.43 (m, 2H); 7.28 (m, 3H); 6.98 (d, 2H); 5.26 (s, 2H); 4.69 (s, 2H); 4.45 (s, 2H); 3.68 (m, 2H); 3.57 (m, 2H); 3.37 (s, 3H); 2.58 (t, 2H); 1.67 (quint., 2H); 1.34 (sext., 2H); 1.26 (s, 9H); 0.87(t, 3H).

reactant | n-butyllithium hexane | 1.6M, 5.56 mL | C(CCC)[Li].CCCCCC
reactant | t-butanol | 1.15 mL | C(C)(C)(C)O | C4H10O
reactant | 1-[(2'-tert-butoxycarbonylbiphenyl-4-yl)methyl]-2-butyl-5-hydroxymethyl-4-iodoimidazole | 3.28 g | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1CO)I)CCCC | C26H31IN2O3
reactant | 2-methoxyethoxymethyl chloride | 1.15 mL | COCCOCCl | C4H9ClO2
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-butyl-4-iodo-5-(2-methoxyethoxymethoxymethyl)imidazole | C(CCC)C=1NC(=C(N1)I)COCOCCOC | C12H21IN2O3
